### ISSUE TITLE
Rewrite applies the wrong equational rule

### ISSUE THREAD

**Issue by BrunoDutertre** [leanprover/lean4#5611]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

On the following example, the `rw` tactic does not unfold a function definition (as it used to prior to 4.12.0).
```lean
structure LoopRange where
  start: Nat
  end_: Option Nat

namespace LoopRange
def isZero (r: LoopRange): Prop :=
  r = ⟨0, some 0⟩

def isZeroVar2 (r: LoopRange): Prop :=
  match r with
  | ⟨0, some 0⟩ => True
  | _ => False

example (r: LoopRange): r.isZeroVar2 ↔ r.isZero := by
  rw [isZeroVar2]
  sorry

end LoopRange
```

Instead, it looks as if  `rw [isZeroVar2]` applies `isZeroVar2.eq_2` which results in two unprovable subgoals:
```
Tactic state
 2 goals

 r : LoopRange
 ⊢ False ↔ r.isZero

 case x_1
 r : LoopRange
 ⊢ r = { start := 0, end_ := some 0 } → False
```

This variant does the right thing::
```lean
example (r: LoopRange): r.isZeroVar2 ↔ r.isZero := by
  rw [isZeroVar2.eq_def]
  sorry
```

### Versions

4.12.0

### Additional Information

[Additional information, configuration or data that might be necessary to reproduce the issue]

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
I fear that's now the expected behavior. It always has been like this for recursive functions, and has become more uniform. Using `rw [foo.eq_def]` is the right work around.

**Comment by BrunoDutertre** [comment]
In other places, I've seen an error message like this
```
failed to rewrite using equation theorems for 'Option.isSome'. Try rewriting with 'Option.isSome.eq_def'.
```

But here, it's silently applying the wrong rewrite and there's no warning or hint at what to do.

**Comment by nomeata** [comment]
Yes, this only happens with function definitions that have a catch-all clause in the pattern match. These lead to rewrite rules that always apply, but introduce side goals. With `simp` that's fine, it won't apply the rule unless it can discharge these side goals. But `rw` is a bit too primitive for that, at least at the moment.

**Comment by Kha** [comment]
Closing as (new) expected behavior

**Comment by BrunoDutertre** [comment]
Is this documented somewhere? What is the new expected behavior of `rw [<function-name>]`?

**Comment by nomeata** [comment]
It's not new behavior of `rw`; it has always behaved like this with functions with multiple equational rules and overlapping patterns. Until 0.11 only recursive functions has multiple equational rules, since 0.12 all functions are treated the same in this regard. See breaking changes section in https://github.com/leanprover/lean4/releases/tag/v4.12.0 (although it's not explicitly calling out the this particular effect.)

**Comment by BrunoDutertre** [comment]
Yes, I saw the release notes. Let me try to clarify my question.

My function definition looks like this:
```lean
def isZeroVar2 (r: LoopRange): Prop :=
  match r with
  | ⟨0, some 0⟩ => True
  | _ => False
```
There are four equational rules for this definition:
```
LoopRange.isZeroVar2.eq_1 : { start := 0, end_ := some 0 }.isZeroVar2 = True

LoopRange.isZeroVar2.eq_2 (r : LoopRange) (x_1 : r = { start := 0, end_ := some 0 } → False) : r.isZeroVar2 = False

LoopRange.isZeroVar2.eq_def (r : LoopRange) :
  r.isZeroVar2 =
    match r with
    | { start := 0, end_ := some 0 } => True
    | x => False

LoopRange.isZeroVar2.eq_unfold :
  isZeroVar2 = fun r =>
    match r with
    | { start := 0, end_ := some 0 } => True
    | x => False
```

How does the tactic `rw [isZeroVar2]` decide which of these four rules to apply?

**Comment by nomeata** [comment]
It tries `.eq_1` and then `.eq_2`. 

Unfortunately the second applies even when the user probably doesn't want it to apply, because it's a conditional rule, and `rw` will apply it always, leaving the side-condition as a new goal (unlike simp, which only applies it if it can discharge the side-condition).
